Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12])=[C:13]([H:14])[H:15],1.20824652258
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],1.03103230926
[C:5]([H:6])[H:7].[H:1][C:4]([C:2])([H:3])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-7.604506060810001
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12],-3.2638650785100003
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1=[C:9]([H:10])[H:11],-0.668301839329
[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.29990876967
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],2.65447906284
[H:1][C:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[O:11][H:12]>>[H:1][C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[O:11][H:12],0.38964992465
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.96013458332
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3],4.54624084691
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.52580567875
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.55473576753
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.56430360961
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:9].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[O:10][H:11],3.5316258430800005
[C:1]#[C:2][C:3]([H:4])[O:5][C:6][O:7][H:8]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6][O:7][H:8],7.415912739229999
[H:1][C:2](=[O:3])[C@@:5]([O:4])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1[O:3][O:4][C@:5]1([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.72580045872
[C:1]=[C:2]([C:3][O:4][H:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[C:1][C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.32080969114
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:6][H:7],4.92127471987
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:3]([H:4])([H:5])=[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2][C:7]([H:6])([H:8])[H:9],2.20900909
[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1][C:2]1([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],0.3382670774099999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9],2.04706699866
[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7],4.8828621889
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[C:6][O:7][H:8].[O:1]=[C:2]=[C:3]([H:4])[H:5],0.6801777586910001
[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[C:3]([H:4])([H:5])[H:6].[H:1][C:2],4.998216868469999
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.6109049869300005
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][C:8][H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]1([H:11])[H:12],-0.54906499893
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9]1>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[H:7])[O:9][C:8],2.69969844213
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.05413619726
